US04555578
To a solution of N-hydroxyphthalimide (11.1 g) and p-methoxybenzyl bromide (13.7 ml) in N,N-dimethylformamide (100 ml) is added triethylamine (6.8 g), and the mixture is stirred at room temperature for 1 hour and at 60° to 70° C. for 1 hour. The reaction mixture is poured into ice water and extracted with ethyl acetate. The extract solution is washed with diluted hydrochloric acid and water, dried and concentrated under reduced pressure. The residue is crystallized from methanol to give N-p-methoxybenzyloxyphthalimide (17 g). mp. 139°-141° C.

reactant | N-hydroxyphthalimide | 11.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | p-methoxybenzyl bromide | 13.7 ml | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | triethylamine | 6.8 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-p-methoxybenzyloxyphthalimide | 17 g | COC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C16H13NO4
